US07429565B2
[4-(4-Hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyl]-phosphonic acid dimethyl ester
A solution of 6-(4-bromo-3-methyl-but-2-enyl)-7-hydroxy-5-methoxy-4-methyl-3H-isobenzofuran-1-one (33 mg, 0.097 mmol) in trimethylphosphite (1.0 mL, 8.5 mmol) was heated to 100° C. for 1 hour, whereupon complete reaction was indicated by LCMS. The reaction was worked up by removal of the excess reagent under reduced pressure and the residue was purified by silica gel chromatography using EtOAc-hexanes (20-100%) to provide 20 mg (60%) of the desired product. 1H NMR (300 MHz, CDCl3) δ 1.90 (s, 3H), 2.09 (s, 3H), 2.48 (d, 2H, J=22 Hz), 3.38 (t, 2H, J=6 Hz), 3.64 (d, 6H, J=11 Hz), 3.72 (s, 3H), 5.14 (s, 2H),5.33 (q, 1H, J=6 Hz), 7.65 (br s, 1H) ppm; MS (m/z) 371 [M+H]+.

reactant | 6-(4-bromo-3-methyl-but-2-enyl)-7-hydroxy-5-methoxy-4-methyl-3H-isobenzofuran-1-one | 0.097 mmol, 33 mg | BrCC(=CCC1=C(C(=C2COC(C2=C1O)=O)C)OC)C | C15H17BrO4
reactant | trimethylphosphite | 8.5 mmol, 1.0 mL | COP(OC)OC | C3H9O3P
product | [4-(4-Hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyl]-phosphonic acid dimethyl ester | 20 mg, 60% | COP(OC)(=O)CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C | C17H23O7P
